US06403580B1
4-[(R)-(1-phenyl-ethyl)amino]-6-nitro-7-fluoro-quinazoline
A solution of 74 ml of (R)-1-phenyl-ethylamine in 100 ml of dioxane is added dropwise to 108.8 g of 4-chloro-6-nitro-7-fluoro-quinazoline in 800 ml of methylene chloride while cooling with an ice bath. The reaction mixture is stirred overnight at ambient temperature. For working up it is extracted with water. The organic phase is dried over magnesium sulphate and evaporated down. The residue is purified by chromatography through a silica gel column with petroleum ether/ethyl acetate (1:1) as eluant.

reactant | (R)-1-phenyl-ethylamine | 74 ml | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | 4-chloro-6-nitro-7-fluoro-quinazoline | 108.8 g | ClC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C8H3ClFN3O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
product | 4-[(R)-(1-phenyl-ethyl)amino]-6-nitro-7-fluoro-quinazoline | C1(=CC=CC=C1)[C@@H](C)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C16H13FN4O2
